US07674809B2
34b) 2-(3,4-dichlorophenyl)-5-nitrobenzoxazole
3,4-Dichlorobenzoyl chloride (4.6 g, 0.022 mol) is added to 2-amino-4-nitrophenol (3.4 g, 0.022 mol) in toluene (250 ml) and the mixture is refluxed for 24 hours. para-Toluenesulfonic acid (1.0 g) is added, the mixture is refluxed for 24 hours and cooled, and the product is filtered off. It is recrystallized from isopropyl ether. Yield: 6.8 g; IR (KBr): 3100, 1531, 1350 cm−1.

reactant | 3,4-Dichlorobenzoyl chloride | 0.022 mol, 4.6 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | 2-amino-4-nitrophenol | 0.022 mol, 3.4 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | para-Toluenesulfonic acid | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3,4-dichlorophenyl)-5-nitrobenzoxazole | ClC=1C=C(C=CC1Cl)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C13H6Cl2N2O3
